US03983128
b. 4-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol
115 g. of 4-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.438 mol.) are dissolved in 1.7 liters of anhydrous tetrahydrofuran. Nitrogen is passed through the flask and while stirring and cooling with tap water 12.5 g. of lithium aluminium hydride is added in portions in order to prevent the temperature from exceeding 22°. The mixture is stirred at room temperature for 1 hour and then at reflux temperature for 2 hours. While stirring and cooling with ice-water, 600 ml. of hydrochloric acid (3 N) is added drop by drop and the reaction mixture is allowed to stand over night. Then the clear solution is evaporated to dryness in vacuo and the residue is treated with 1.6 liters of hot absolute alcohol dissolving mainly AlCl3 and LiCl but leaving 45.3 g. of 4-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol hydrochloride (m.p. 170°-171° dec.). An additional amount of 14.1 g. of hydrochloride precipitates from the alcoholic solution. Yield 59.4 g. (52.5%). Neutralization of the hydrochloride by means of aqueous sodium hydroxide and extracting with chloroform provides the free compound, m.p. 100°-102°.

reactant | 4-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.438 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)OCC | C13H17N3O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | 4-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol hydrochloride | Cl.C(C)OC1=C2C(=NC=C1CO)N(N=C2)CC
solvent | tetrahydrofuran | 1.7 liters | O1CCCC1 | C4H8O
solvent | water | 12.5 g | O | H2O
product | 4-Ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-methanol | C(C)OC1=C2C(=NC=C1CO)N(N=C2)CC | C11H15N3O2
